US09238639B2
Methyl(4-chloro-6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetate
To a mixture of methyl(4-chloro-6-hydroxy-1-benzothiophen-3-yl)acetate (750 mg) and THF (dry) (10 mL) were added (1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methanol (632 mg), ADDP (958 mg) and tri-n-butylphosphine (1.442 mL) at room temperature. The mixture was stirred at room temperature for 16 h. The insoluble material was removed by filtration, and the filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane). The product was crystallized from EtOAc-hexane to give the title compound (1132 mg).

reactant | methyl(4-chloro-6-hydroxy-1-benzothiophen-3-yl)acetate | 750 mg | COC(CC1=CSC2=C1C(=CC(=C2)O)Cl)=O | C11H9ClO3S
reactant | (1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methanol | 632 mg | CN1N=C(C=C1CO)C(F)(F)F | C6H7F3N2O
reactant | ADDP | 958 mg | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
reactant | tri-n-butylphosphine | 1.442 mL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Methyl(4-chloro-6-((1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl)methoxy)-1-benzothiophen-3-yl)acetate | 1132 mg | COC(CC1=CSC2=C1C(=CC(=C2)OCC2=CC(=NN2C)C(F)(F)F)Cl)=O | C17H14ClF3N2O3S
